US05516788
cis-4b,5,9b,10-Tetrahydro-2-hydroxy-1,3-dimethylindeno[1,2-b]indole.
Under anhydrous conditions, 4b,5,9b,10-tetrahydro-2-methoxy-1,3-dimethylindeno[1,2-b]indole (76 mg, 0.29 mmol) was dissolved in dry dichloromethane (DCM, 1 cm3) into which a small amount of ethanol had been added. The solution was cooled to -78° C., and a solution of boron tribromide in DCM (0.5 cm3 of 1M solution) added. The reaction was slowly warmed to room temperature, reaction occurring at 0° C. After 30 minutes at 10° C., water (1 cm3) was added cautiously, and the reaction stirred for 15 minutes. The mostly solid material was exhaustively extracted between DCM and a saturated solution of sodium bicarbonate. The DCM layer was dried (Na2SO4), and filtered through a pad of flash silica to yield a colourless solid. Yield: 73 mg, 100% .M.p. 178°-180° (dec). 1H NMR (CDCl3) δ: 7.16 (1H, d, J = 7.3 Hz), 6.99 (1H, ddm), 6.94 (1H, s), 6.73 (1H, ddm, J=7.3, 1.1 Hz), 6.60 (1H, d, J=7.7 Hz), 5.20 (1H, d, J=8.4 Hz), 4.4 (2H, br), 4.15 (1H, ddm), 3.38 (1H, dd, J=16.1, 8.3 Hz), 3.09 (1H, dd, J=16.2 Hz), 2.21 (3H, s), 2.12 (3H, s).

reactant | 4b,5,9b,10-tetrahydro-2-methoxy-1,3-dimethylindeno[1,2-b]indole | 0.29 mmol, 76 mg | COC=1C(=C2CC3C(NC=4C=CC=CC34)C2=CC1C)C | C18H19NO
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | water | 1 cm3 | O | H2O
solvent | dichloromethane | 1 cm3 | ClCCl | CH2Cl2
solvent | ethanol | C(C)O | C2H6O
solvent | DCM | 1M, 0.5 cm3 | ClCCl | CH2Cl2
product | cis-4b,5,9b,10-Tetrahydro-2-hydroxy-1,3-dimethylindeno[1,2-b]indole | OC=1C(=C2C[C@H]3[C@H](NC=4C=CC=CC34)C2=CC1C)C | C17H17NO
